US04631270
2-Mercapto-4-Methyl-Pentanoic Acid
A total of 1.25 g. (6.5 mmoles) of the product prepared above is taken up in 2 ml. of water. Sufficient 1 N sodium hydroxide is added to dissolve the bromo acid. To this mixture, there is added 5 ml. of 40% sodium thiocarbonate and the vessel is closed and allowed to stand at room temperature for 24 hours. At the end of this period, the solution is acidified with 18 N. sulfuric acid, and extracted with 2 10 ml. portions of ethyl ether. The combined extracts are dried over anhydrous magnesium sulfate and filtered. The filtrate is concentrated to approximately half its volume and chromatographed on a silica gel column (2.2×30 cm). The original solution is eluted with 150 ml. of ethyl ether, and the product recovered by evaporation of the solvent in the eluate. The yield is approximately 34%. The Rf values (TLC) are 0.88 and 1.0 on silica gel and cellulose plates (n-butanol/acetic acid/water-12/3/5).

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | bromo acid | C1=CC=C(C(=C1)C2=C3C=C(C(=O)C(=C3OC4=C(C(=C(C=C24)Br)[O-])Br)Br)Br)C(=O)[O-].[Na+].[Na+]
reactant | sodium thiocarbonate | C([O-])([O-])=S.[Na+].[Na+]
solvent | water | O | H2O
product | 2-Mercapto-4-Methyl-Pentanoic Acid | yield is approximately 34% | SC(C(=O)O)CC(C)C | C6H12O2S
